US06846819B1
Preparation of (E)-N-Methyl-N-(1-methyl-1H-indol-2-ylmethyl)-3-[6-(propionylamino)pyridin-3-yl]acrylamide
Propionic anhydride (0.90 mL, 7.04 mmole) was added to a solution of (E)-3-(6-aminopyridin-3-yl)-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)acrylamide (0.56 g. 1.76 mmole) and sodium bicarbonate (0.74 g, 8.8 mmole) in THF (40 mL) at RT, and the reaction was heated at reflux under nitrogen. After 48 hr, the reaction was concentrated in vacuo and the residue was diluted with water and extracted with ethyl acetate. The combined extracts were dried over Na2SO4 and concentrated. Flash chromatography on silica gel (ethyl acetate) gave the title compound (0.35 g, 53%) as a white solid: MS (ES) m/e 377 (M+H)+.

reactant | Propionic anhydride | 7.04 mmole, 0.90 mL | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | (E)-3-(6-aminopyridin-3-yl)-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)acrylamide | 1.76 mmole, 0.56 g | NC1=CC=C(C=N1)/C=C/C(=O)N(CC=1N(C2=CC=CC=C2C1)C)C | C19H20N4O
reactant | sodium bicarbonate | 8.8 mmole, 0.74 g | C([O-])(O)=O.[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (E)-N-Methyl-N-(1-methyl-1H-indol-2-ylmethyl)-3-[6-(propionylamino)pyridin-3-yl]acrylamide | 0.35 g, 53% | CN(C(\C=C\C=1C=NC(=CC1)NC(CC)=O)=O)CC=1N(C2=CC=CC=C2C1)C | C22H24N4O2
